US04788206
As in Example 99, (Z)-3-cyclohexyl-3-(4-methoxyphenyl)-2-propenal (7.3 g) was reacted with (carbomethoxymethylene)triphenylphosphorane (11 g) in carbon tetrachloride (40 mL) and dichloromethane (4 mL) overnight at room temperature. The crude ester, isolated in the normal fashion, was purified by HPLC (ether-hexane; 1:7) to yield 5.7 g of (2E,4Z)-5-cylcohexyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester. A portion was crystallized from hexane to give the analytical specimen, mp 70.5°-72° C.

reactant | (Z)-3-cyclohexyl-3-(4-methoxyphenyl)-2-propenal | 7.3 g | C1(CCCCC1)/C(=C/C=O)/C1=CC=C(C=C1)OC | C16H20O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 11 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (2E,4Z)-5-cylcohexyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester | 5.7 g | COC(\C=C\C=C(/C1=CC=C(C=C1)OC)\C1CCCCC1)=O | C19H24O3
